US07282594B2
4-(3-{1-Benzhydryl-5-chloro-2-[2-(2,6-dimethyl-phenylmethanesulfonylamino)-ethyl]-1H-indol-3 -yl}-propyl)-benzoic Acid
N-[2-(1-Benzhydryl-5-chloro-1H-indol-2-yl)-ethyl]-C-(2,6-dimethyl-phenyl)-methanesulfonamide (300 g, 552 mmol), 4-(3-Oxo-propyl)-benzoic acid ethyl ester (250 g, 1.21 mol), triethylsilane (192 g, 1.66 mol), and dichloromethane (2.9 L) were combined, stirred, and cooled to −20° C. A solution of boron trifluoride etherate (55.0 g, 322 mmol) in dichloromethane (10 mL) was added to the reaction mixture over 9 min. After 35 min, trifluoroacetic acid (63 g, 553 mmol) was added to the reaction mixture. After 40 min, the reaction mixture was filtered cold through a celite pad into aqueous sodium bicarbonate (138 g/1.5 L). The organic layer was concentrated to 1.2 L g, then ethanol (1.5 L) was added. The solution was concentrated to 1.2 L. THF (450 mL) and a solution of aqueous sodium hydroxide (221 g, 2.76 mol) were added. The reaction mixture was then warmed to reflux for 30 min. The mixture was cooled to 50° C. Toluene (1.5 L), water (300 mL) and acetic acid (166 g, 2.76 mol) were added. The organic and aqueous phases were separated and the organic phase was concentrated to 1.2 L. Toluene (600 mL) was added and the mixture was concentrated to 1.2 L. The mixture was cooled to room temperature and stirred for 16 h. The solid was collected by filtration, washed with cold toluene (3×300 mL), and dried to give 317 g (81%) of the title compound.

reactant | N-[2-(1-Benzhydryl-5-chloro-1H-indol-2-yl)-ethyl]-C-(2,6-dimethyl-phenyl)-methanesulfonamide | 552 mmol, 300 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)Cl)CCNS(=O)(=O)CC1=C(C=CC=C1C)C | C32H31ClN2O2S
reactant | 4-(3-Oxo-propyl)-benzoic acid ethyl ester | 1.21 mol, 250 g | C(C)OC(C1=CC=C(C=C1)CCC=O)=O | C12H14O3
reactant | triethylsilane | 1.66 mol, 192 g | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 322 mmol, 55.0 g | B(F)(F)F.CCOCC
reactant | trifluoroacetic acid | 553 mmol, 63 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 2.76 mol, 221 g | [OH-].[Na+]
reactant | acetic acid | 2.76 mol, 166 g | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.9 L | ClCCl | CH2Cl2
solvent | water | 300 mL | O | H2O
solvent | Toluene | 1.5 L | C1(=CC=CC=C1)C | C7H8
solvent | THF | 450 mL | C1CCOC1 | C4H8O
product | 4-(3-{1-Benzhydryl-5-chloro-2-[2-(2,6-dimethyl-phenylmethanesulfonylamino)-ethyl]-1H-indol-3 -yl}-propyl)-benzoic Acid | 317 g, 81% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCCC1=CC=C(C(=O)O)C=C1)CCNS(=O)(=O)CC1=C(C=CC=C1C)C | C42H41ClN2O4S
